US07919628B2
50 mg 2-[(1-bromo-naphthalene-2-carbonyl)-amino]-2-methyl-propionic acid methyl ester, 49.5 mg tetrakis(triphenylphosphine)palladium (0), 28.7 mg trans-2-(4-chloro-phenyl) vinylboronic acid and 43 mg CsF were suspended in 1 ml of MeOH and 3 ml of dimethoxyethane, deoxygenated with Argon, and heated to 80° for 14h. The reaction was filtered, purified by RP-HPLC and freeze-dried to give 38 mg of 2-({1-[(E)-2-(4-Chloro-phenyl)-vinyl]-naphthalene-2-carbonyl}-amino)-2-methyl-propionic acid methyl ester (65%).

reactant | 2-[(1-bromo-naphthalene-2-carbonyl)-amino]-2-methyl-propionic acid methyl ester | 50 mg | COC(C(C)(C)NC(=O)C1=C(C2=CC=CC=C2C=C1)Br)=O | C16H16BrNO3
reactant | trans-2-(4-chloro-phenyl) vinylboronic acid | 28.7 mg | ClC1=CC=C(C=C1)/C=C/B(O)O | C8H8BClO2
reactant | CsF | 43 mg | [F-].[Cs+]
solvent | MeOH | 1 ml | CO | CH4O
catalyst | tetrakis(triphenylphosphine)palladium | 49.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-({1-[(E)-2-(4-Chloro-phenyl)-vinyl]-naphthalene-2-carbonyl}-amino)-2-methyl-propionic acid methyl ester | 38 mg, 65% | COC(C(C)(C)NC(=O)C1=C(C2=CC=CC=C2C=C1)\C=C\C1=CC=C(C=C1)Cl)=O | C24H22ClNO3
